US07420001B2
To 0.838 g of L-valine methyl ester hydrochloride in 15 mL of dichloromethane, cooled in an ice bath, 1.34 g of 4-bromobenzenesulfonyl chloride was added followed by 2.79 mL of triethylamine. The mixture was stirred at room temperature overnight and then diluted with dichloromethane. The dichloromethane was washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide 1.77 g of methyl N-[(4-bromophenyl)sulfonyl]-L-valinate as a colorless solid. Yield ˜100%. m.p. 88-90° C.; MS: 348.2 (M−H)−.

reactant | L-valine methyl ester hydrochloride | 0.838 g | Cl.COC([C@@H](N)C(C)C)=O
reactant | 4-bromobenzenesulfonyl chloride | 1.34 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | 2.79 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methyl N-[(4-bromophenyl)sulfonyl]-L-valinate | 1.77 g, Yield ˜100% | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C12H16BrNO4S
